US07115611B2
B] 2-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester
0.657 g (2.33 mmol) of the above prepared (example 1L]) 3-dimethylamino-1-(4-trifluoromethyl-phenyl)-propan-1-one hydrochloride and 0.362 g (1.0 eq., not corrected for impurities) of the above synthesised 3-amino-3-cyclopropyl-acrylic acid ethyl ester was dissolved in 7 ml of AcOH and heated to reflux for 3 h. After cooling, the bulk of the solvent was evaporated i. V. Ensuing flash chromatography (SiO2, hexane/AcOEt=93/7) yielded 0.101 g of the title compound as light yellow solid.

reactant | 3-dimethylamino-1-(4-trifluoromethyl-phenyl)-propan-1-one hydrochloride | Cl.CN(CCC(=O)C1=CC=C(C=C1)C(F)(F)F)C
reactant | 3-amino-3-cyclopropyl-acrylic acid ethyl ester | C(C)OC(C=C(C1CC1)N)=O | C8H13NO2
solvent | AcOH | 7 ml | CC(=O)O | C2H4O2
product | 2-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester | 0.101 g | C(C)OC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C18H16F3NO2
